US04876329
A 24.8 g sample of 3,5-dinitrobenzotrifluoride purchased from Aldrich Chemical Co. was slurried in 200 ml of ethanol and 5 g of 1% palladium on carbon added. This mixture was transferred to an autoclave, pressured to 400 psi with hydrogen, and heated at 75° C. with stirring for 1 hr. A 91% yield of pure 3,5-diaminobenzotrifluoride was recovered.

reactant | 3,5-dinitrobenzotrifluoride | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C(F)(F)F | C7H3F3N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 5 g | [Pd] | Pd
product | 3,5-diaminobenzotrifluoride | 91% yield | NC=1C=C(C=C(C1)N)C(F)(F)F | C7H7F3N2
